US04550169
A solution composed of 32.0 g of 1-(2-hydroxypropyl)-2-imidazolidinethione, 250 ml of 2-propanol and 15 ml of methyliodide was stirred at reflux for 4 hours, then clarified, cooled at -10° C. and the solid collected, washed with 2-propanol, then ether and dried at 60° C. in vacuo, giving 52.7 g of α-methyl-2-(methylthio)-2-imidazoline-1-ethanol, hydroiodide, mp 114°-116° C.

reactant | 1-(2-hydroxypropyl)-2-imidazolidinethione | 32.0 g | OC(CN1C(NCC1)=S)C | C6H12N2OS
reactant | methyliodide | 15 ml | CI | CH3I
solvent | 2-propanol | 250 ml | CC(C)O | C3H8O
product | α-methyl-2-(methylthio)-2-imidazoline-1-ethanol, hydroiodide | 52.7 g | I.CC(CN1C(=NCC1)SC)O | InChI=1S/C7H14N2OS.HI/c1-6(10)5-9-4-3-8-7(9)11-2;/h6,10H,3-5H2,1-2H3;1H
